US05670656
Step 1b Preparation of 4-bromo-2-hydroxy-N(3-trifluoromethylphenyl)butanamide.
Boron tribromide (11.0 ml, 1.0M solution in dichloromethane) was added dropwise to a stirred solution of 3-hydroxytetrahydrofuran-2-one (1.0 g) and 3-trifluoromethylphenylaniline (1.58 g) in 1,2-dichloroethane (20 ml). The mixture was stirred overnight at room temperature, poured on to water and extracted with dichloromethane. The extracts were washed with hydrochloric acid (2M) and brine, dried over magnesium sulphate, and evaporated under reduced pressure. The residue was chromatographed on silica, using dichloromethane-ethanol (49:1) as eluant, to give the title compound (0.74 g, m.p. 67°-69° C.). NMR (CDCl3): δ 2.3(1H,m); 2.6(1H,m); 3.5(1H,bs); 3.6(2H,dd); 4.5(1H,dd); 7.4(2H,m); 7.7 (1H,d); 7.9(1H,s); 8.7(1H,bs). MS: M+ 325, 327.

reactant | Boron tribromide | 1.0M, 11.0 ml | B(Br)(Br)Br | BBr3
reactant | 3-hydroxytetrahydrofuran-2-one | 1.0 g | OC1C(OCC1)=O | C4H6O3
reactant | 3-trifluoromethylphenylaniline | 1.58 g | FC(C=1C=C(C=CC1)NC1=CC=CC=C1)(F)F | C13H10F3N
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 4-bromo-2-hydroxy-N(3-trifluoromethylphenyl)butanamide | 0.74 g | BrCCC(C(=O)NC1=CC(=CC=C1)C(F)(F)F)O | C11H11BrF3NO2
